US05288743
A solution of N-nitroso-N-(4-chlorobenzyl)-4-methoxyaniline (98.7 g; 357 mmol), prepared as above, in 1200 mL THF was cooled to 0° C. and 1230 mL of a 1M solution of diisobutylaluminum hydride in hexanes was added dropwise. The ice bath was removed and the reaction was heated at reflux overnight. The reaction was cooled to ambient temperature and poured into 10% aqueous HCl. The layers were separated and the aqueous was extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and then concentrated. The crude material was dissolved in 400 mL of 1:1 ethyl acetate, hexane and treated with HCl gas. The resultant solid was collected to yield 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)-hydrazine hydrochloride which was used with no further purification.

reactant | N-nitroso-N-(4-chlorobenzyl)-4-methoxyaniline | 357 mmol, 98.7 g | N(=O)N(C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)Cl | C14H13ClN2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 1200 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)-hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1 | InChI=1S/C14H15ClN2O.ClH/c1-18-14-8-6-13(7-9-14)17(16)10-11-2-4-12(15)5-3-11;/h2-9H,10,16H2,1H3;1H
